US07906517B2
C-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-yl)-methylamine (3.47 g) is dissolved in dioxane (50 ml), and thereto are added 5-bromo-2-chloropyrimidine (5.30 g) and N,N-diisopropylethylamine (5.74 ml) and the mixture is stirred at 100° C. for 2 hours and a half. The reaction solution is allowed to cool to room temperature, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=50:1→22:3) to give (5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine (4.82 g). MS (m/z): 482/480 [M+H]+

reactant | C-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-yl)-methylamine | 3.47 g | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
reactant | 5-bromo-2-chloropyrimidine | 5.30 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | N,N-diisopropylethylamine | 5.74 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (5-bromo-pyrimidin-2-yl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amine | 4.82 g | BrC=1C=NC(=NC1)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C22H21BrF3N3O
